* Extracted by KLayout with GF180MCU LVS runset on : 25/08/2026 22:21

.SUBCKT tanh_ota V_out V_ref V_in_n V_in_p VDD VSS
M$1 \$6 VDD VDD VDD pfet_03v3 L=0.5U W=10U AS=4.55P AD=4.55P PS=16.82U PD=16.82U
M$2 VDD \$6 \$6 VDD pfet_03v3 L=0.5U W=20U AS=5.2P AD=5.2P PS=22.08U PD=22.08U
M$3 V_out \$6 VDD VDD pfet_03v3 L=0.5U W=20U AS=5.2P AD=5.2P PS=22.08U PD=22.08U
M$11 \$6 VSS VSS VSS nfet_03v3 L=0.5U W=10U AS=4.35P AD=4.35P PS=16.74U
+ PD=16.74U
M$12 \$5 V_in_p \$6 VSS nfet_03v3 L=0.5U W=10U AS=2.6P AD=2.6P PS=11.04U
+ PD=11.04U
M$13 V_out V_in_n \$5 VSS nfet_03v3 L=0.5U W=10U AS=2.6P AD=2.6P PS=11.04U
+ PD=11.04U
R$17 V_out V_ref VSS 15000 ppolyf_u_1k L=45U W=3U
R$20 \$2 VDD VSS 36666.6666667 ppolyf_u_1k L=110U W=3U
M$25 VSS VSS VSS VSS nfet_03v3 L=0.5U W=3U AS=1.305P AD=1.305P PS=6.24U PD=6.24U
M$26 \$2 \$2 VSS VSS nfet_03v3 L=0.5U W=30U AS=7.8P AD=7.8P PS=40.4U PD=40.4U
M$36 \$5 \$2 VSS VSS nfet_03v3 L=0.5U W=3U AS=0.78P AD=0.78P PS=4.04U PD=4.04U
.ENDS tanh_ota
